US04067989
Phenacyl bromide (0.05 mol) and imidazole (0.02 mol) were stirred in methanol (50 ml) at 0° for 3 hours. The methanol was removed in vacuo and the residue taken up in methylene chloride (300 ml), washed with water (3 × 100 ml), and dried (anhydrous sodium sulphate). Removal of the solvent left a solid residue which on recrystallisation from ethyl acetate gave 2-(imidazol-1-yl)-acetophenone (60%) as light brown needles, m.p. 112°-113°.

reactant | Phenacyl bromide | 0.05 mol | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | imidazole | 0.02 mol | N1C=NC=C1 | C3H4N2
solvent | methanol | 50 ml | CO | CH4O
product | 2-(imidazol-1-yl)-acetophenone | 60% | N1(C=NC=C1)CC(=O)C1=CC=CC=C1 | C11H10N2O
